US06518458B1
Preparation of N-(2,6-Dimethylphenyl)-3-chloropropanamide
A 2 l three-necked flask, is charged with 121.8 g of 2,6-dimethylaniline, 300 ml of isopropyl ether and 150 ml of water. 126.5 g of 3-chloropropanoyl chloride are added at a rate such that the internal temperature is between 5 and 10° C. At the end of the addition, the reaction medium is stirred for 3 h. The precipitate formed is filtered off with suction, washed with isopropyl ether and then with water and finally dried. 126 g of white crystals are obtained.

reactant | 2,6-dimethylaniline | 121.8 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | isopropyl ether | 300 ml | C(C)(C)OC(C)C | C6H14O
reactant | 3-chloropropanoyl chloride | 126.5 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | water | 150 ml | O | H2O
product | N-(2,6-Dimethylphenyl)-3-chloropropanamide | 126 g | CC1=C(C(=CC=C1)C)NC(CCCl)=O | C11H14ClNO
